US06635657B1
A. 1-(4-Pyridinyl)-3-hydroxypyrrolidine
A mixture of 3-hydroxypyrrolidine (9.9 g, 113.64 mmol), 4-bromopyridinium hydrochloride (22.098 g, 113.64 mmol), triethylamine (47.5 mL, 341.0 mmol) and 3:1 ethanol:water (150 mL), in a pressure tube reaction vessel, was purged with nitrogen and sealed. The mixture was heated to 150° C. for 96 hours and cooled. The solvent was evaporated and ethyl acetate (50 mL) was added. After trituration, the organic solvent was decanted off and saved. Methylene chloride (80 mL) and 2 N sodium hydroxide (60 mL) were added to the solid. The mixture was shaken vigorously and was filtered with water and methylene chloride wash to give the title compound as an off-white solid. The organic supernatant and the methylene chloride and water washes were combined. This mixture was extracted with methylene chloride. The organic layer was sodium sulfate dried and concentrated. The residue was triturated with methylene chloride and the solid was filtered. This solid was combined with the solid from above and vacuum dried (100° C. at 133 Pa for 14 hours) to give the title compound as an off-white solid (8.52 g, 46%).

reactant | 3-hydroxypyrrolidine | 113.64 mmol, 9.9 g | OC1CNCC1 | C4H9NO
reactant | 4-bromopyridinium hydrochloride | 113.64 mmol, 22.098 g | Cl.BrC1=CC=[NH+]C=C1
reactant | triethylamine | 341.0 mmol, 47.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-Pyridinyl)-3-hydroxypyrrolidine | N1=CC=C(C=C1)N1CC(CC1)O | C9H12N2O
